US09399639B2
Step 2) (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl phenyl carbonate
To a mixture of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol), TBAB (132 mg, 0.4 mmol) and Et3N (114 μL, 0.8 mmol) in DMF (1 mL) was added chloromethyl phenyl carbonate (46 mg, 0.25 mmol). The reaction was stirred at rt for 12 h, then diluted with EtOAc (40 mL) and filtered. The filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1) to afford the title compound as a white solid (10 mg, 7.7%). The title compound was characterized by LCMS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | Et3N | 0.8 mmol, 114 μL | CCN(CC)CC | C6H15N
reactant | chloromethyl phenyl carbonate | 0.25 mmol, 46 mg | C(OCCl)(OC1=CC=CC=C1)=O | C8H7ClO3
catalyst | TBAB | 0.4 mmol, 132 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl phenyl carbonate | 10 mg, 7.7% | C(OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(OC2=CC=CC=C2)=O | C31H24ClF2N3O6S
